US07345049B2
Process 1: Synthesis of 4-nitro-N-(2,6-dichlorobenzoyl)-L-phenylalanine isopropylester
Isopropanol (130 mL), tetrahydrofuran (50 mL) and sulfuric acid (0.44 mL) were added to 4-nitro-N-(2,6-dichlorobenzoyl)-L-phenylalanine (2.95 g, 7.70 mmol) and stirred at 50° C. for 5 days. After removing the solvent under reduced pressure, the obtained solid material was washed with water and dried to obtain 3.28 g of a white solid material.

reactant | Isopropanol | 130 mL | C(C)(C)O | C3H8O
reactant | sulfuric acid | 0.44 mL | S(O)(O)(=O)=O | H2O4S
reactant | 4-nitro-N-(2,6-dichlorobenzoyl)-L-phenylalanine | 7.70 mmol, 2.95 g | [N+](=O)([O-])C1=CC=C(C[C@H](NC(C2=C(C=CC=C2Cl)Cl)=O)C(=O)O)C=C1 | C16H12Cl2N2O5
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 4-nitro-N-(2,6-dichlorobenzoyl)-L-phenylalanine isopropylester | 3.28 g | C(C)(C)OC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)[N+](=O)[O-])=O | C19H18Cl2N2O5
